US09233974B2
To as solution of methyl [(2S)-1-{(2S,5S)-2-[5-(2-{(2S,5S)-1-[(2S)-2-[(tert-butoxycarbonyl)amino]-2-(4-methyltetrahydro-2H-pyran-4-yl)acetyl]-5-methylpyrrolidin-2-yl}-1,11-dihydroisochromeno[4′,3′:6,7]naphtho[1,2-d]imidazol-9-yl)-1H-imidazol-2-yl]-5-methylpyrrolidin-1-yl}-3-methyl-1-oxobutan-2-yl]carbamate (0.594 g, 0.648 mmol) in a mixture of dichloromethane (6.4 mL) and methanol (1.2 mL) was added HCl (4M in dioxanes, 2.4 mL, 9.72 mmol). The solution was heated to 40° C. for 1 h and cooled to room temperature. The solution was then concentrated in vacuo. The resulting solid was dissolved in DMF (3 mL), followed by the addition of methyl chloroformate (0.050 mL, 0.648 mmol) and diisopropylethylamine (0.14 mL, 0.78 mmol). The reaction mixture was stirred at room temperature for 30 minutes. Upon completion by LCMS monitoring, the solution was purified by reverse phase HPLC (Gemini column, 10-45% MeCN/H2O/0.1% TFA). The desired fractions were lyophilized to give methyl [(2S)-1-{(2S,5S)-2-[5-(2-{(2S,5S)-1-[(2S)-2-[(methoxycarbonyl)amino]-2-(4-methyltetrahydro-2H-pyran-4-yl)acetyl]-5-methylpyrrolidin-2-yl}-1,11-dihydroisochromeno[4′,3′:6,7]naphtho[1,2-d]imidazol-9-yl)-1H-imidazol-2-yl]-5-methylpyrrolidin-1-yl}-3-methyl-1-oxobutan-2-yl]carbamate (0.057 g, 10%). 1H NMR (400 MHz, Methanol-d4) δ 8.63 (s, 1H), 8.19 (d, 1H), 8.09-7.75 (m, 4H), 7.75-7.61 (m, 2H), 7.46-7.24 (m, 1H), 5.39-5.24 (m, 2H), 5.23-5.12 (m, 1H), 4.84-4.60 (m, 2H), 4.44-4.22 (m, 1H), 4.22-4.02 (m, 1H), 3.85-3.62 (m, 8H), 3.60-3.45 (m, 2H), 2.84-2.44 (m, 2H), 2.42-2.23 (m, 3H), 2.12-1.82 (m, 3H), 1.67 (d, 2H), 1.56 (d, 4H), 1.37-1.19 (m, 4H), 1.17-1.03 (m, 4H), 0.98 (d, 3H), 0.88 (d, 3H). MS (ESI) m/z 875.53 [M+H]+.

reactant | methyl [(2S)-1-{(2S,5S)-2-[5-(2-{(2S,5S)-1-[(2S)-2-[(tert-butoxycarbonyl)amino]-2-(4-methyltetrahydro-2H-pyran-4-yl)acetyl]-5-methylpyrrolidin-2-yl}-1,11-dihydroisochromeno[4′,3′:6,7]naphtho[1,2-d]imidazol-9-yl)-1H-imidazol-2-yl]-5-methylpyrrolidin-1-yl}-3-methyl-1-oxobutan-2-yl]carbamate | 0.648 mmol, 0.594 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC[C@@H]1C)C1=NC2=C(N1)C1=CC3=C(C=C1C=C2)C2=CC=C(C=C2CO3)C3=CN=C(N3)[C@H]3N([C@H](CC3)C)C([C@H](C(C)C)NC(OC)=O)=O)C3(CCOCC3)C | C51H64N8O8
reactant | HCl | 9.72 mmol, 4M, 2.4 mL | Cl | ClH
reactant | methyl chloroformate | 0.648 mmol, 0.050 mL | ClC(=O)OC | C2H3ClO2
reactant | diisopropylethylamine | 0.78 mmol, 0.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 6.4 mL | ClCCl | CH2Cl2
solvent | methanol | 1.2 mL | CO | CH4O
product | methyl [(2S)-1-{(2S,5S)-2-[5-(2-{(2S,5S)-1-[(2S)-2-[(methoxycarbonyl)amino]-2-(4-methyltetrahydro-2H-pyran-4-yl)acetyl]-5-methylpyrrolidin-2-yl}-1,11-dihydroisochromeno[4′,3′:6,7]naphtho[1,2-d]imidazol-9-yl)-1H-imidazol-2-yl]-5-methylpyrrolidin-1-yl}-3-methyl-1-oxobutan-2-yl]carbamate | 0.057 g, 10% | COC(=O)N[C@H](C(=O)N1[C@@H](CC[C@@H]1C)C1=NC2=C(N1)C1=CC3=C(C=C1C=C2)C2=CC=C(C=C2CO3)C3=CN=C(N3)[C@H]3N([C@H](CC3)C)C([C@H](C(C)C)NC(OC)=O)=O)C3(CCOCC3)C | C48H58N8O8
